US08530648B2
h) 9-(quinoxalin-2-yl)-1-((1-tosyl-1H-indol-4-yl)methyl)-1,9-diazaspiro[5.5]undecan-2-one
To a stirred solution of 1-((1-tosyl-1H-indol-4-yl)methyl)-1,9-diazaspiro[5.5]undecan-2-one (TFA salt) (0.11 g, 0.201 mmol) in 5.0 mL DMF, 2-chloroquinoxaline (0.04 g, 0.241 mmol) and K2CO3 (0.084 g, 0.603 mmol) were added and the reaction mixture was stirred for 6 h at 80° C. under a nitrogen atmosphere. The reaction mixture was quenched with ice-cold water and extracted with ethyl acetate (2×25 mL), dried over anhydrous Na2SO4, filtered and concentrated under reduced pressure to yield the title compound as a pale yellow solid (0.120 g). LCMS RtA=0.512, [M+H]+=579.9

reactant | 1-((1-tosyl-1H-indol-4-yl)methyl)-1,9-diazaspiro[5.5]undecan-2-one | 0.201 mmol, 0.11 g | S(=O)(=O)(C1=CC=C(C)C=C1)N1C=CC2=C(C=CC=C12)CN1C(CCCC12CCNCC2)=O | C25H29N3O3S
reactant | 2-chloroquinoxaline | 0.241 mmol, 0.04 g | ClC1=NC2=CC=CC=C2N=C1 | C8H5ClN2
reactant | K2CO3 | 0.603 mmol, 0.084 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 5.0 mL | CN(C)C=O | C3H7NO
product | 9-(quinoxalin-2-yl)-1-((1-tosyl-1H-indol-4-yl)methyl)-1,9-diazaspiro[5.5]undecan-2-one | 0.120 g | N1=C(C=NC2=CC=CC=C12)N1CCC2(CCCC(N2CC2=C3C=CN(C3=CC=C2)S(=O)(=O)C2=CC=C(C)C=C2)=O)CC1 | C33H33N5O3S
